US07338974B2
Step J (1): A mixture of (2R,3S)-1-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-3-amino-4-(3,5-difluorophenyl)butan-2-ol (51 mg, 0.122 mmol) from stepE(2), (S)-2-((S)-3-butyl-2-oxopyrrolidin-1-yl)pent-4-enoic acid (31 mg, 0.128 mmol) from stepB(5), EDC (25 mg, 0.128 mmol), HOBt (17 mg, 0.128 mmol), and DIEA (108 μL, 0.610 mmol) were mixed in 2 mL of DMF and stirred at room temperature for 24 h. Purified using reverse phase preparatory HPLC to give 61 mg of (S)—N-((2S,3R)-4-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-1-(3,5-difluorophenyl)-3-hydroxybutan-2-yl)-2-((S)-3-butyl-2-oxopyrrolidin-1-yl)pent-4-enamide as clear viscous residue (TFA salt). A 2 mg sample was free based by passage through basic alumina (activated, Brockmann I), using methanol as an eluant: LC-MS (M+H)+=640.6; 1H NMR (500 MHz, CDCl3) δ 7.27-7.37 (m, 1H), 6.78-6.93 (m, 2H), 6.69-6.80 (m, 2H), 6.55-6.67 (m, 1H), 5.81-6.08 (m, 1H), 5.52-5.72 (m, 1H), 5.31 (dd, J=17.09, 1.53 Hz, 1H), 5.18 (dd, J=10.38, 1.22 Hz, 1H), 4.91-5.14 (m, 2H), 4.65-4.86 (m, 1H), 4.49 (dd, J=9.77, 6.10 Hz, 1H), 3.97-4.22 (m, 3H), 3.75-3.87 (m, 3H), 3.34-3.55 (m, 1H), 2.99-3.33 (m, 2H), 2.84-3.00 (m, 1H), 2.53-2.86 (m, 4H), 2.19-2.52 (m, 2H), 2.00-2.19 (m, 1H), 1.69-1.93 (m, 2H), 1.42-1.72 (m, 5H), 1.17-1.40 (m, 5H), 0.98-1.15 (m, 1H), 0.79-0.96 (m, 3H).

reactant | (2R,3S)-1-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-3-amino-4-(3,5-difluorophenyl)butan-2-ol | 0.122 mmol, 51 mg | C(C=C)O[C@@H]1C[C@@H](C2=CC(=CC=C12)OC)NC[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O | C23H28F2N2O3
reactant | (S)-2-((S)-3-butyl-2-oxopyrrolidin-1-yl)pent-4-enoic acid | 0.128 mmol, 31 mg | C(CCC)[C@@H]1C(N(CC1)[C@H](C(=O)O)CC=C)=O | C13H21NO3
reactant | EDC | 0.128 mmol, 25 mg
reactant | HOBt | 0.128 mmol, 17 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.610 mmol, 108 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (S)—N-((2S,3R)-4-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-1-(3,5-difluorophenyl)-3-hydroxybutan-2-yl)-2-((S)-3-butyl-2-oxopyrrolidin-1-yl)pent-4-enamide | 61 mg | C(C=C)O[C@@H]1C[C@@H](C2=CC(=CC=C12)OC)NC[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC([C@H](CC=C)N1C([C@H](CC1)CCCC)=O)=O)O | C36H47F2N3O5
